US09376436B2
To an ice cooled solution of 7-(benzenesulfonyl)-8-(4-bromo-3-methyl-2-pyridyl)-3-methyl-3,9-diazaspiro[4.4]nonan-4-one (which may be prepared as described in Description 8) (3500 mg, 7.54 mmol) in THF (5 mL) was added potassium tert-butoxide (1691 mg, 15.07 mmol) and the reaction was stirred for 1 hour. Additional KOtBu (1.7 g, 15.1 mmol) was added and the reaction was stirred at 00° C. for 1 hour, and allowed to warm to room temperature overnight. The reaction was quenched by addition of acetic acid (3.45 mL, 60.3 mmol), concentrated in vacuo and loaded onto a silica column (100 g SNAP). Elution using EtOAc gave 2-(4-bromo-3-methyl-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one (1410 mg, 4.3762 mmol, 58.063% yield) as a pale yellow crystalline solid;

reactant | 7-(benzenesulfonyl)-8-(4-bromo-3-methyl-2-pyridyl)-3-methyl-3,9-diazaspiro[4.4]nonan-4-one | 7.54 mmol, 3500 mg | C1(=CC=CC=C1)S(=O)(=O)C1CC2(C(N(CC2)C)=O)NC1C1=NC=CC(=C1C)Br | C20H22BrN3O3S
reactant | potassium tert-butoxide | 15.07 mmol, 1691 mg | CC(C)([O-])C.[K+]
reactant | KOtBu | 15.1 mmol, 1.7 g | CC(C)(C)[O-].[K+]
reactant | acetic acid | 60.3 mmol, 3.45 mL | C(C)(=O)O | C2H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-3-methyl-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one | 4.3762 mmol, 1410 mg, 58.063% yield | BrC1=C(C(=NC=C1)C1=NC2(CC1)C(N(CC2)C)=O)C | C14H16BrN3O
